US09226922B2
To a 50 mL round bottom flask charged with benzyl(4-(hydroxymethyl)-3-methoxy-1-trityl-1H-pyrazolo[4,3-c]pyridin-6-yl)carbamate (180 mg, 0.315 mmol), imidazole (42.9 mg, 0.631 mmol) and DMF (3 ml) was added tert-butyldimethylchlorosilane (57.1 mg, 0.379 mmol). The flask was capped and the contents stirred at room temperature for 2 h. LCMS analysis indicated 80% conversion to the desire product. Excess tert-butyldimethylchlorosilane (25 mg) was added, and the reaction mixture stirred at room temperature for 16 h. The reaction mixture was diluted with ethyl acetate (20 mL), washed with water (2×30 mL), dried (MgSO4) and filtered. The solvent was evaporated under reduced pressure to afford crude benzyl(4-(((tert-butyldimethylsilyl)oxy)methyl)-3-methoxy-1-trityl-1H-pyrazolo[4,3-c]pyridin-6-yl)carbamate (199 mg, 0.291 mmol, 92% yield) as a colorless oil. MS: [M+H]+ m/z 685.

reactant | benzyl(4-(hydroxymethyl)-3-methoxy-1-trityl-1H-pyrazolo[4,3-c]pyridin-6-yl)carbamate | 0.315 mmol, 180 mg | C(C1=CC=CC=C1)OC(NC1=CC2=C(C(=N1)CO)C(=NN2C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)OC)=O | C35H30N4O4
reactant | imidazole | 0.631 mmol, 42.9 mg | N1C=NC=C1 | C3H4N2
reactant | DMF | 3 ml | CN(C)C=O | C3H7NO
reactant | tert-butyldimethylchlorosilane | 0.379 mmol, 57.1 mg | C(C)(C)(C)[Si](Cl)(C)C | C6H15ClSi
reactant | tert-butyldimethylchlorosilane | 25 mg | C(C)(C)(C)[Si](Cl)(C)C | C6H15ClSi
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
product | benzyl(4-(((tert-butyldimethylsilyl)oxy)methyl)-3-methoxy-1-trityl-1H-pyrazolo[4,3-c]pyridin-6-yl)carbamate | 0.291 mmol, 199 mg, 92% yield | C(C1=CC=CC=C1)OC(NC1=CC2=C(C(=N1)CO[Si](C)(C)C(C)(C)C)C(=NN2C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)OC)=O | C41H44N4O4Si
